US06579872B1
Using an analogous procedure to that described in the first paragraph of Example 50, 3-(1-tert-butoxycarbonylpiperidin-4-yloxy)benzoic acid was reacted with N-(3-amino-4-methylphenyl)-3-morpholino-5-trifluoromethylbenzamide to give N-[2-methyl-5-(3-morpholino-5-trifluoromethylbenzamido)phenyl]-3-(1-tert-butoxycarbonylpiperidin-4-yloxy)benzamide in 77% yield; NMR Spectrum: (DMSOd6) 1.37 (s, 9H), 1.55 (m, 2H), 1.95 (m, 2H), 2.19 (s, 3H), 3.2 (m, 2H), 3.25 (t, 4H), 3.63 (m, 2H), 3.77 (t, 4H), 4.63 (m, 1H), 7.18 (m, 1H), 7.22 (d, 1H), 7.37 (s, 1H), 7.41 (t, 1H), 7.5 (s, 2H), 7.57 (m, 1H), 7.62 (s, 1H), 7.7 (s, 1H), 7.78 (d, 1H), 9.83 (s, 1H), 10.31 (m, 1H); Mass Spectrum: M+H+683.

reactant | 3-(1-tert-butoxycarbonylpiperidin-4-yloxy)benzoic acid | C(C)(C)(C)OC(=O)N1CCC(CC1)OC=1C=C(C(=O)O)C=CC1 | C17H23NO5
reactant | N-(3-amino-4-methylphenyl)-3-morpholino-5-trifluoromethylbenzamide | NC=1C=C(C=CC1C)NC(C1=CC(=CC(=C1)C(F)(F)F)N1CCOCC1)=O | C19H20F3N3O2
product | N-[2-methyl-5-(3-morpholino-5-trifluoromethylbenzamido)phenyl]-3-(1-tert-butoxycarbonylpiperidin-4-yloxy)benzamide | 77% yield | CC1=C(C=C(C=C1)NC(C1=CC(=CC(=C1)C(F)(F)F)N1CCOCC1)=O)NC(C1=CC(=CC=C1)OC1CCN(CC1)C(=O)OC(C)(C)C)=O | C36H41F3N4O6
